US07524867B2
To a magnetically stirred mixture of 1-(4-chlorophenyl)-2-(2,4-dichlorophenyl)-1H-imidazole-4-carboxylic acid (20.77 g, 0.0565 mol) and Boc2O (24.63 g, 0.113 mol) in t-BuOH (275 ml) was added DMAP (2.07 g, 0.017 mol) and the resulting mixture was stirred for 16 h. After concentration in vacuo, toluene was added and the mixture was again concentrated. The residue was purified by column chromatography (CH2Cl2/acetone=95/5 (v/v)) and recrystallized from diisopropyl ether to give tert-butyl 1-(4-chlorophenyl)-2-(2,4-dichlorophenyl)-1H-imidazole-4-carboxylate (15.75 g, 66% yield), mp 178-180° C.; 1H-NMR (200 MHz, CDCl3) δ 1.63 (s, 9H), 7.05 (br d, J˜8 Hz, 2H), 7.25-7.37 (m, 4H), 7.52 (d, J=8 Hz, 1H), 7.80 (s, 1H).

reactant | 1-(4-chlorophenyl)-2-(2,4-dichlorophenyl)-1H-imidazole-4-carboxylic acid | 0.0565 mol, 20.77 g | ClC1=CC=C(C=C1)N1C(=NC(=C1)C(=O)O)C1=C(C=C(C=C1)Cl)Cl | C16H9Cl3N2O2
reactant | Boc2O | 0.113 mol, 24.63 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | t-BuOH | 275 ml | CC(C)(C)O | C4H10O
catalyst | DMAP | 0.017 mol, 2.07 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-butyl 1-(4-chlorophenyl)-2-(2,4-dichlorophenyl)-1H-imidazole-4-carboxylate | 15.75 g, 66% yield | ClC1=CC=C(C=C1)N1C(=NC(=C1)C(=O)OC(C)(C)C)C1=C(C=C(C=C1)Cl)Cl | C20H17Cl3N2O2
